US05571810
A mixture of 5-(4-fluorophenyl)-4-[4-(methylsulfonyl)phenyl]thiophene-2-carboxylic acid (1.0 g) and 1,1'-carbonyldiimidazole (0.45 g) in tetrahydrofuran (15 ml) was refluxed for 1.5 hours. 5-Aminotetrazole (0.226 g) was added and the mixture was refluxed for 3 hours. The mixture was diluted with water (50 ml), acidified with hydrochloric acid, and cooled in an ice-water bath. The precipitates were collected and recrystallized from ethanol to give colorless crystals of N-(5-tetrazolyl)-5-(4-fluorophenyl)-4-[4-(methylsulfonyl)phenyl]thiophene-2-carboxamide (0.93 g).

reactant | 5-(4-fluorophenyl)-4-[4-(methylsulfonyl)phenyl]thiophene-2-carboxylic acid | 1.0 g | FC1=CC=C(C=C1)C1=C(C=C(S1)C(=O)O)C1=CC=C(C=C1)S(=O)(=O)C | C18H13FO4S2
reactant | 1,1'-carbonyldiimidazole | 0.45 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 5-Aminotetrazole | 0.226 g | NC1=NN=NN1 | CH3N5
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | 50 ml | O | H2O
product | N-(5-tetrazolyl)-5-(4-fluorophenyl)-4-[4-(methylsulfonyl)phenyl]thiophene-2-carboxamide | 0.93 g | N1N=NN=C1NC(=O)C=1SC(=C(C1)C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=C(C=C1)F | C19H14FN5O3S2
